US07576212B2
{3-Phenyl-4-[(pyridin-2-ylmethyl)-amino]-thieno[2,3-b]pyridin-6-yl}-acetic acid ethyl ester (180 mg, 0.45 mmol) was dissolved in dry THF (10 ml) under nitrogen. Diethyl Carbonate (0.27ml, 2.23 mmol) was added and the mixture cooled to 0° C. Sodium Hydride (36 mg, 0.89 mmol) was added and the mixture stirred at 0° C. for a further 10 min, then at room temperature for 20 min, then brought to reflux for 45 min. On cooling, the reaction was diluted with water (100 ml) and extracted with DCM (3×50 ml), the extracts combined, dried over magnesium sulphate and concentrated. The residue was purified on silica, eluting (Ethyl Acetate/DCM), 0-20%) to give 2-{3-Phenyl-4-[(pyridin-2-ylmethyl)-amino]-thieno[2,3-b]pyridin-6-yl}-malonic acid diethyl ester as a yellow solid. Yield=96 mg (45%).

reactant | {3-Phenyl-4-[(pyridin-2-ylmethyl)-amino]-thieno[2,3-b]pyridin-6-yl}-acetic acid ethyl ester | 0.45 mmol, 180 mg | C(C)OC(CC1=CC(=C2C(=N1)SC=C2C2=CC=CC=C2)NCC2=NC=CC=C2)=O | C23H21N3O2S
reactant | Diethyl Carbonate | 2.23 mmol, 0.27ml | C(OCC)(OCC)=O | C5H10O3
reactant | Sodium Hydride | 0.89 mmol, 36 mg | [H-].[Na+]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | water | 100 ml | O | H2O
product | 2-{3-Phenyl-4-[(pyridin-2-ylmethyl)-amino]-thieno[2,3-b]pyridin-6-yl}-malonic acid diethyl ester | C(C)OC(C(C(=O)OCC)C1=CC(=C2C(=N1)SC=C2C2=CC=CC=C2)NCC2=NC=CC=C2)=O | C26H25N3O4S
